US04925590
0.1 mole of 1-(trans-4pentylcyclohexyl-1-methoxy)-2,3-difluorobenzene (prepared from 2,3-difluorophenol and trans-4-pentylcyclohexylmethyl iodide analogously to Example 4) is deprotonated by means of n-butyllithium in tetrahydrofuran/tetramethylethylenediamine and is formylated by means of N-formylpiperidine. The formyl compound is reacted as in Example 1b) with hydroxylamine-O-sulfonic acid. Working up in the customary manner gives 4-(trans-4-pentylcyclohexylmethoxy)-2,3-difluorobenzonitrile.

reactant | 2,3-difluorophenol | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | trans-4-pentylcyclohexylmethyl iodide | C(CCCC)[C@@H]1CC[C@H](CC1)CI | C12H23I
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-formylpiperidine | C(=O)N1CCCCC1 | C6H11NO
reactant | hydroxylamine-O-sulfonic acid | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran tetramethylethylenediamine | O1CCCC1.CN(CCN(C)C)C
product | 4-(trans-4-pentylcyclohexylmethoxy)-2,3-difluorobenzonitrile | C(CCCC)[C@@H]1CC[C@H](CC1)COC1=C(C(=C(C#N)C=C1)F)F | C19H25F2NO
